US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (21.5 g) and 2-butoxyaniline (24 g) are added to pyridine (50 ml), and the mixture is refluxed with stirring for 18 hours. The reaction mixture is concentrated to dryness. The residue is recrystallized from DMF to give ethyl 1,6-dihydro-2-(2-butoxyanilino)-6-oxo-5-pyrimidinecarboxylate (20 g). M.p. 209°-211° C.

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 21.5 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 2-butoxyaniline | 24 g | C(CCC)OC1=C(N)C=CC=C1 | C10H15NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 1,6-dihydro-2-(2-butoxyanilino)-6-oxo-5-pyrimidinecarboxylate | 20 g | C(CCC)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C17H21N3O4
